US05412097
7-methyl-2-propyl-3-[[2'-(N-benzyloxycarbonylaminosulfonyl)[1,1']-biphenyl-4-yl]methyl]-6-[(1-oxobutylamino)]-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 7-methyl-2-propyl-3-[2'-(aminosulfonyl)[1,1']-biphenyl-4-yl]methyl-6-[(1-oxobutyl)amino]-3H-imidazo[4,5-b]pyridine as described in Example 30 substituting the reagent benzyl chloroformate for butyl chloroformate in Step 5. FAB MS for C35H37N5SO5 : M+ +1=640.

reactant | 7-methyl-2-propyl-3-[2'-(aminosulfonyl)[1,1']-biphenyl-4-yl]methyl-6-[(1-oxobutyl)amino]-3H-imidazo[4,5-b]pyridine | CC1=C2C(=NC=C1NC(CCC)=O)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)N | C27H31N5O3S
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | butyl chloroformate | ClC(=O)OCCCC | C5H9ClO2
product | 7-methyl-2-propyl-3-[[2'-(N-benzyloxycarbonylaminosulfonyl)[1,1']-biphenyl-4-yl]methyl]-6-[(1-oxobutylamino)]-3H-imidazo[4,5-b]pyridine | CC1=C2C(=NC=C1NC(CCC)=O)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)NC(=O)OCC2=CC=CC=C2 | C35H37N5O5S
